US04510136
Preparation of (3,5-Dimethyl-1H-1,2,4-triazol-1-ylmethyl)[bis(4-fluorophenyl)]methylsilan
The title compound is prepared by applying the procedure of Example 30 to equimolar quantities of chloromethyl[bis(4-fluorophenyl)]methylsilane and 3,5-dimethyl-1,2,4-triazole sodium salt.

reactant | chloromethyl[bis(4-fluorophenyl)]methylsilane | ClC[SiH2]C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C14H13ClF2Si
reactant | 3,5-dimethyl-1,2,4-triazole sodium salt | [Na].CC1=NNC(=N1)C
product | (3,5-Dimethyl-1H-1,2,4-triazol-1-ylmethyl)[bis(4-fluorophenyl)]methylsilan | CC1=NN(C(=N1)C)C[SiH2]C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C18H19F2N3Si
